* K:\Préampli_G5\Simulation\g5_stompbox.asc
R1 sin 0 1000k
R2 N011 sin 33k
XU1 N006 N011 N016 NH12AX7
R3 C N006 120k
R4 N016 0 1k8
C1 N007 N006 250p
R5 N006 N012 50k
C2 N013 N012 100n
C3 N017 N012 47n
C4 N016 0 22µ
XU6 N007 N013 N010 PotLin Rtot=250K wiper=0.5
XU7 N013 N022 N013 pot_plog Rtot=250k wiper=0.5 Rtap=25k tap=0.5
XU9 N010 0 N015 pot_plog Rtot=1000k wiper=0.7 Rtap=250k tap=0.5
XU8 N017 0 N017 pot_plog Rtot=100k wiper=0.5 Rtap=10k tap=0.5
V3 sin 0 SINE(0 1 1K) AC 1. 0
V4 NC_01 0 235
XU2 N008 N015 N020 NH12AX7
R6 C N008 100k
R7 N020 0 1k8
C5 N020 0 22µF
C6 N009 N008 22n
R10 N018 0 470k
R12 N009 N018 470k
R14 N021 0 1k
XU3 N004 N019 N021 NH12AX7
XU4 N014 0 N021 NH12AX7
R8 N022 0 15k
V1 NC_02 0 230
XU10 N005 0 OUTPUT pot_plog Rtot=1K wiper=1 Rtap=150R tap=0.5
R21 N019 N018 220k
V2 N001 0 320
C13 N002 0 100µ V=500V Rser=2
L1 N001 N002 7 Rser=100
R23 N002 0 470k
R24 N003 N002 1k
C14 N003 0 22µ Rser=2
C15 B 0 22µ Rser=2
R25 B N003 22k
I1 N002 0 100mA
C16 C 0 10µ Rser=2
R26 C B 10k
I2 N003 0 10mA
R11 0 N005 180R
C7 N009 N018 470pF
R13 N018 0 100k
L2 B N004 1100
L3 N014 B 1100
L4 0 N005 1
.lib potentiometer_standard.lib
.include dmtriodep.inc
.tran 0 15ms 10ms 1ms
;ac oct 1000 20 25000
K1 L2 L3 L4 1
.lib pote.lib
.backanno
.end
